US05237102
In a 50-ml round-bottom flask 1.32 g (purity: 40.9%, 0.76 mmole) of 1-phenylsulfonyl-4-chloro-1,18-di(2,6,6-trimethyl-1-cyclohexen-1-yl)-3,7,12,16-tetramethyloctadeca-2,7,9,11,13,15,17-heptaene was reacted with 0.8 g (purity: 85%, 12.1 mmoles) of potassium hydroxide in 15 g of ethanol at 45° C. for 3 hours. Then water and toluene were added and the reaction mixture was separated. The organic layer obtained was washed with water and the solvent was removed therefrom to obtain 1.95 g (purity: 17.2%, 0.62 mmole, yield: 81.6%) of β-carotene.

reactant | 1-phenylsulfonyl-4-chloro-1,18-di(2,6,6-trimethyl-1-cyclohexen-1-yl)-3,7,12,16-tetramethyloctadeca-2,7,9,11,13,15,17-heptaene | 0.76 mmole, 1.32 g | C1(=CC=CC=C1)S(=O)(=O)C(C=C(C(CCC(=CC=CC=C(C=CC=C(C=CC1=C(CCCC1(C)C)C)C)C)C)Cl)C)C1=C(CCCC1(C)C)C | C46H63ClO2S
reactant | potassium hydroxide | 12.1 mmoles, 0.8 g | [OH-].[K+]
reactant | water | O | H2O
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 15 g | C(C)O | C2H6O
product | β-carotene | 0.62 mmole, 1.95 g, yield: 81.6% | CC1=C(C(CCC1)(C)C)/C=C/C(=C/C=C/C(=C/C=C/C=C(/C=C/C=C(/C=C/C2=C(CCCC2(C)C)C)\C)\C)/C)/C | C40H56
